US04057647
A solution of 3.2 g. of 3-(2',4'-difluoro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester in 10 ml. of dichloromethane is saturated with dry HCl gas and 1 ml. of SOCl2 is added. The mixture is warmed to 50° for 2 hours and solvent is removed. The residue, 3'(2',4'-difluoro-4-biphenylyl)-3-chlorobutyric acid ethyl ester, is dissolved in 100 ml. of methanol and hydrogenated on 100 mg. of platinum oxide under normal pressure at 25°. The precipitate is filtered off. A solution of 0.4 g. of NaOH in 5 ml. of water is added to the filtrate. The mixture is heated under reflux for 2 hours and evaporated and the residue is dissolved in water and worked up in the customary manner to give 3-(2',4'-difluoro-4-biphenylyl)-butyric acid, m.p. 109°-110°.

reactant | 3-(2',4'-difluoro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester | C(C)OC(CC(C)(O)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C18H18F2O3
reactant | HCl | Cl | ClH
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(2',4'-difluoro-4-biphenylyl)-butyric acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)O)C | C16H14F2O2
